US07572801B2
Under cooling (0° C.), diethyl methylmalonate ([609-08-5], 1.175 g, 7 mmol) was added to a suspension of NaH (60% in mineral oil, 325 mg, 8 mmol) in diethyl ether (30 ml). After 3 h at r.t, the solvent was evaporated and the residue was dissolved in DMF (20 ml). To this solution, triphenylvinylphosphonium bromide ([5044-52-0], 3.00 g, 8 mmol) and benzaldehyde ([100-52-7], 860 mg, 8 mmol) were added. The reaction mixture was stirred at 100° C. overnight, and was then taken up in ethyl acetate, washed (H2O), and dried (Na2SO4). The solvent was evaporated, and 2-methyl-2-(3-phenyl-allyl)-malonic acid diethyl ester was isolated from the residue by column chromatography (silica gel, ethyl acetate/heptane). MS: m/e=291.0 [M+H+].

reactant | diethyl methylmalonate | 7 mmol, 1.175 g | CC(C(=O)OCC)C(=O)OCC | C8H14O4
reactant | NaH | 8 mmol, 325 mg | [H-].[Na+]
reactant | triphenylvinylphosphonium bromide | 8 mmol, 3.00 g | [Br-].C1(=CC=CC=C1)C(=C(C1=CC=CC=C1)C1=CC=CC=C1)[PH3+]
reactant | benzaldehyde | 8 mmol, 860 mg | C(C1=CC=CC=C1)=O | C7H6O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-methyl-2-(3-phenyl-allyl)-malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)(CC=CC1=CC=CC=C1)C)=O | C17H22O4
